US06153608
2-Ethyl-hexahydro-1-[(4-methyl-5-isoquinolinyl)sulfonyl]-1H-1,4-diazepine hydrochloride
Using 0.68 g of 1-(tert-butoxycarbonyl)-3-ethyl-hexahydro-1H-1,4-diazepine and 0.72 g of 5-chlorosulfonyl-4-methylisoquinoline, the procedure of Example 1 was otherwise repeated to provide 0.38 g of the objective compound (white crystals).

reactant | 1-(tert-butoxycarbonyl)-3-ethyl-hexahydro-1H-1,4-diazepine | 0.68 g | C(C)(C)(C)OC(=O)N1CC(NCCC1)CC | C12H24N2O2
reactant | 5-chlorosulfonyl-4-methylisoquinoline | 0.72 g | ClS(=O)(=O)C1=C2C(=CN=CC2=CC=C1)C | C10H8ClNO2S
product | 2-Ethyl-hexahydro-1-[(4-methyl-5-isoquinolinyl)sulfonyl]-1H-1,4-diazepine hydrochloride | 0.38 g | Cl.C(C)C1N(CCCNC1)S(=O)(=O)C1=C2C(=CN=CC2=CC=C1)C | InChI=1S/C17H23N3O2S.ClH/c1-3-15-12-18-8-5-9-20(15)23(21,22)16-7-4-6-14-11-19-10-13(2)17(14)16;/h4,6-7,10-11,15,18H,3,5,8-9,12H2,1-2H3;1H
